US05283244
In 22 ml of sulfuric acid was dissolved 1.6 g of 6-fluoro-1-hydroxyquinoxaline-2,3-(1H,4H)-dione followed by addition of 0.9 g of KNO3. The mixture was reacted at room temperature for 3 hours, after which it was poured in ice-water. The resulting crystals were recovered by filtration to provide 310 mg of 6-fluoro-1-hydroxy-7-nitroquinoxaline-2,3-(1H,4H)-dione.

reactant | 6-fluoro-1-hydroxyquinoxaline-2,3-(1H,4H)-dione | 1.6 g | FC=1C=C2NC(C(N(C2=CC1)O)=O)=O | C8H5FN2O3
reactant | KNO3 | 0.9 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 22 ml | S(O)(O)(=O)=O | H2O4S
product | 6-fluoro-1-hydroxy-7-nitroquinoxaline-2,3-(1H,4H)-dione | 310 mg | FC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])O)=O)=O | C8H4FN3O5
